US08604034B2
Potassium carbonate (3 equivalents) was added to a solution of tert-butyl carbazate (500 mg, 3.8 mmol) in DMF at 0° C. After 10 minutes, 2-bromo-1-(4-methoxyphenyl)ethanone (1 equivalent) was added and the reaction stirred at 0° C. for 1 hour. After this time, the reaction was worked-up to give crude tert-butyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinecarboxylate. The material was carried through without purification. ESI-MI m/z [M+Na]+ 303.2.

reactant | Potassium carbonate | 3 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl carbazate | 3.8 mmol, 500 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 2-bromo-1-(4-methoxyphenyl)ethanone | 1 equivalent | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinecarboxylate | COC1=CC=C(C=C1)C(CNNC(=O)OC(C)(C)C)=O | C14H20N2O4
